### PR TITLE
[Merged by Bors] - feat: `1 ≤ a ^ n ↔ 0 ≤ n` when `1 < a`

### PR DESCRIPTION
**Pull request by YaelDillies**
and other basic `zpow` lemmas

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
Thanks for factoring this off! To continue discussion from the other PR:

> For the simp tagging, I just followed what was already done in the file

The simplifier isn't capable of automatically filling in auxiliary (non-typeclass) hypotheses, even if the exact statement is already there in the context, is it? So I think simp-tagging these is a no-op, since the simplifier won't know how to use them.

**Comment by YaelDillies** [comment]
> The simplifier isn't capable of automatically filling in auxiliary (non-typeclass) hypotheses, even if the exact statement is already there in the context, is it?

Yes, it is! which is why it's so powerful

**Comment by loefflerd** [comment]
OK, thanks, I've definitely learned something then!

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 1]
```diff
@@ -1618,6 +1618,30 @@ lemma zpow_le_zpow_iff_right_of_lt_one₀ (ha₀ : 0 < a) (ha₁ : a < 1) :
...
+  simp [← zpow_lt_zpow_iff_right_of_lt_one₀ ha₀ ha₁]
+
+@[simp] lemma zpow_le_one_iff_right₀ (ha : 1 < a) : a ^ n ≤ 1 ↔ n ≤ 0 := by
+  simp [← zpow_le_zpow_iff_right₀ ha]
+
+@[simp] lemma zpow_lt_one_iff_right₀ (ha : 1 < a) : a ^ n < 1 ↔ n < 0 := by
+  simp [← zpow_lt_zpow_iff_right₀ ha]
+
+lemma zpow_le_one_iff_right_of_lt_one₀ (ha₀ : 0 < a) (ha₁ : a < 1) : a ^ n ≤ 1 ↔ 0 ≤ n := by
+  simp [← zpow_le_zpow_iff_right_of_lt_one₀ ha₀ ha₁]
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1640]: Hmm, is it definitely more useful to have `zpow_le_one_iff_right₀` as a simp lemma rather than `zpow_le_one_iff_right_of_lt_one₀`? I'd expect the latter to be significantly more helpful

Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1640]: I think that's because you're an analyst 😜 But concretely what would you suggest? Tag both? Tag none?

Comment (b-mehta) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1640]: Now that I think about it, maybe it's not so bad to tag both...

Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean]: Okay, I've tagged everything then

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
